US04929741
A solution of 8.6 g (34.4 mmol) of 4-(1-ethoxyethoxy)-1-(4-hydroxyphenyl)-2-butyn-1-ol in 50 ml of methylene chloride was added dropwise ar 0° to a suspension of 89 g (1.02 mol) of manganese dioxide in 150 ml of methylene chloride. The reaction mixture was stirred at 0° for 15 minutes, filtered over magnesium sulphate and concentrated. Flash chromatography of the residue on 200 g of silica gel (elution agent ether/hexane 1:1) yielded 4-(1-ethoxyethoxy)-1-(4-hydroxyphenyl)-2-butyn-1 one as an oil.

reactant | 4-(1-ethoxyethoxy)-1-(4-hydroxyphenyl)-2-butyn-1-ol | 34.4 mmol, 8.6 g | C(C)OC(C)OCC#CC(O)C1=CC=C(C=C1)O | C14H18O4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.02 mol, 89 g | [O-2].[O-2].[Mn+4]
product | 4-(1-ethoxyethoxy)-1-(4-hydroxyphenyl)-2-butyn-1 one | C(C)OC(C)OCC#CC(=O)C1=CC=C(C=C1)O | C14H16O4
